US06069156
To a solution of methyl 2-propylindole-6-carboxylate (300 mg) in dichloromethane (10 ml) was added a 1M solution of tin(IV) chloride in dichloromethane (2.76ml) at 20° C. The mixture was stirred at 20° C. for 30 minutes, then methoxyacetyl chloride (0.25 ml) was added. After stirred at 20° C. for 30 minutes, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:10-1:1) to give methyl 3-methoxyacetyl-2-propylindole-6-carboxylate (135 mg) as pale yellow crystals.

reactant | methyl 2-propylindole-6-carboxylate | 300 mg | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
reactant | tin(IV) chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | methoxyacetyl chloride | 0.25 ml | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.76ml | ClCCl | CH2Cl2
product | methyl 3-methoxyacetyl-2-propylindole-6-carboxylate | 135 mg | COCC(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C16H19NO4
